Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:2]1([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C:5]([H:12])[O:6]1.[O:1][H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],9.197578848714016
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[N:5]([H:12])[C-:4]=[O+:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],87.5058921867787
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:20])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:21])[H:19],72.43507154424981
[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]([H:10])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],99.26534498365989
[C:1]([C:2]1=[C:3]([H:11])[N:5]([H:12])[C-:4]=[O+:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],49.571416837225094
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]#[C:2][C:3]1([C:4](=[O:5])[H:8])[N:6]=[N:7]1,39.03222413537
[C:1]([C:2]([C@:3]1([H:14])[C:4][C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],27.32943184337622
[C:1](/[C:2](=[C:3](/[O:4][H:13])[H:11])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:12][H:16]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],37.1648867459491
[C:1]([N:6]=[C:5]=[C:4]=[C:3]=[C:2]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],67.9807126235957
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],44.553918112811395
[O:1]([C@@:2]1([H:9])[C@@:4]2([C:3]([O:5][H:12])([H:10])[H:11])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],72.0503538682803
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[C:5]([C:6](=[O:7])[H:17])[H:15])([H:13])[H:14].[H:12][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],38.358236043259204
[C:4](#[C:5][H:8])[H:6].[N:1](=[C:2]=[O:3])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],49.99768922949537
[O:1]([C+:2]([C@:3]([C-:4]([H:12])[H:13])([C:7]([C:5](=[O:6])[H:10])([H:14])[H:15])[H:11])[H:9])[H:8]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],2.4965084261385044
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[H:11][H:12].[O:1](/[N:2]=[C:3]1/[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1)[H:7],71.3352497924142
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:14])[H:15].[C:6](#[N:7])[H:16]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],31.872913882116595
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:4](=[C:3]=[C:2]([C:5]#[N:6])[H:8])[H:9])[H:7],57.6042231687094
[C:1]([C:2]([C:3]([C:4]([C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],66.2866137787849
[N:1](=[C:2]=[C:3]=[N+:7]=[N-:6])[C:4](=[O:5])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],42.8610016570901
[C:1]([C:2]([N+:3]#[C-:4])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5]([C:6]([H:13])([H:14])[H:15])[H:12]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],41.39597113544739
[C:1]1([H:7])([H:8])[C@@:3]2([H:11])[C:2]([H:9])([H:10])[N:4]2[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],62.08034392506451
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:16],69.458477314627
[C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])([H:9])[H:10].[H:8][H:11]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],79.8508084050649
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([H:11])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9].[H:10][H:12],88.9092304017825
